US07205325B2
1-[4-(4-{2-[2-(4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
0.32 g (1.00 mmol) 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole, 0.217 g (1.00 mmol) 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol, 0.166 g (1.00 mmol) potassium iodide and 0.191 ml (1.00 mmol) of sodium methylate (30% in methanol) were added to 50.0 ml methanol and heated to reflux for 16 h. After removal of solvent and partitioning of the residue between 50 ml ethyl acetate and 15 ml water, the organic phase was washed with 10 ml water, 10 ml 0.1 N NaOH and twice 15 ml water, and dried over sodium sulfate. The solution was concentrated until crystallisation of the product started. After leaving for 1 h at room temperature the precipitate was isolated, washed with ether and dried at 40° C. in vacuo. Yield 0.11 g (18%) 1-[4-(4-{2-[2-(4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole, m.p. 144–145° C.

reactant | 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole | 1.00 mmol, 0.32 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)SC(F)(F)F | C13H9ClF3NOS
reactant | 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol | 1.00 mmol, 0.217 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | potassium iodide | 1.00 mmol, 0.166 g | [I-].[K+]
reactant | sodium methylate | 1.00 mmol, 0.191 ml | C[O-].[Na+]
solvent | methanol | 50.0 ml | CO | CH4O
product | 1-[4-(4-{2-[2-(4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | FC(F)(F)SC1=CC=C(C=C1)C=CC=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C25H23F3N4O2S
